US04481142
9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide
A solution of 6.8 g (20 mmole) of 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine, 6 g (30 mmole) of 85% m-chloroperbenzoic acid in 200 ml of methylene chloride was stirred at room temperature for 4 hrs. The mixture was washed with an excess of ice cold dilute sodium hydroxide, dried over anhydrous sodium sulfate and filtered over hyflo. The filtrate was concentrated at reduced pressure to dryness. The residue was crystallized from a mixture of methylene chloride and ether to give a crude product, mp 228°-229° C. Recrystallization from a mixture of methylene chloride and ether gave the product, mp 216°-217° C.

reactant | 9-chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | 20 mmole, 6.8 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC=N3)C=C1 | C18H11Cl2N3
reactant | m-chloroperbenzoic acid | 30 mmole, 6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 9-Chloro-7-(2-chlorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)Cl)[O-])C=NC=N3)C=C1 | C18H11Cl2N3O
